US09359340B2
To a solution of (S)-tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.098 g, 0.28 mmol) in THF (10 mL) were added NaH (60%, 50 mg, 1.25 mmol) and MeI (0.08 mL, 1.28 mmol). The mixture was stirred at room temperature overnight. The solution was removed and the residue was purified by silica gel chromatography, eluting with ethyl acetate to give (S)-tert-butyl 4-((5R,7R)-7-methoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.056 g, 55%). 1H NMR (CDCl3, 400 MHz) δ 8.56 (s, 1H), 4.66 (m, 2H), 4.30-3.80 (m, 3H), 3.55 (s, 3H), 3.54-2.90 (m, 4H), 2.25 (m, 1H), 1.98 (m, 1H), 1.49 (s, 9H), 1.24 (d, J=12.4 Hz, 3H), 1.13 (d, J=7.2 Hz, 3H). MS (APCI+) [M+H] +363.

reactant | (S)-tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate | 0.28 mmol, 0.098 g | O[C@@H]1C[C@H](C2=C1N=CN=C2N2[C@H](CN(CC2)C(=O)OC(C)(C)C)C)C | C18H28N4O3
reactant | NaH | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | MeI | 1.28 mmol, 0.08 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-((5R,7R)-7-methoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate | 0.056 g, 55% | CO[C@@H]1C[C@H](C2=C1N=CN=C2N2[C@H](CN(CC2)C(=O)OC(C)(C)C)C)C | C19H30N4O3
